US05846989
d) Methyl 3-[2-[2-(4-methylphenyl)ethoxy]ethylaminosulphonyl]propanoate
The subtitle compound (2.49 g) was prepared according to the procedure in example 5 part d using 2-[2-(4-methylphenyl)ethoxy]ethanamine hydrochloride (3.5 g) triethylamine 4.74 ml) methyl 3-(chlorosulphonyl)propanoate (3.08 g), and dichloromethane (80 ml).

reactant | 2-[2-(4-methylphenyl)ethoxy]ethanamine hydrochloride | 4.74 ml, 3.5 g | Cl.CC1=CC=C(C=C1)CCOCCN
reactant | methyl 3-(chlorosulphonyl)propanoate | 3.08 g | ClS(=O)(=O)CCC(=O)OC | C4H7ClO4S
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | Methyl 3-[2-[2-(4-methylphenyl)ethoxy]ethylaminosulphonyl]propanoate | 2.49 g | CC1=CC=C(C=C1)CCOCCNS(=O)(=O)CCC(=O)OC | C15H23NO5S
